US04067903
288 parts of β-naphthol, 6.6 parts of triphenyl phosphite and 115 parts of ethylamine gas are heated for 10 hours at 230° C in a pressure autoclave. The pressure is 35 atmospheres. The mixture is added to 2,000 parts of water and the batch is stirred for 30 minutes at 70° - 80° C. The lower oily phase is separated off and distilled. 328 parts of N-ethyl-β-naphthylamine of boiling point 119° - 120° C/0.1 mm Hg are obtained. This corresponds to a yield of 96% of theory.

reactant | β-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | ethylamine | C(C)N | C2H7N
solvent | water | O | H2O
product | N-ethyl-β-naphthylamine | yield of 96% | C(C)NC1=CC2=CC=CC=C2C=C1 | C12H13N
